US08372807B2
A mixture of ethyl 2-(naphthalen-1-yl)-3-oxobutanoate (500 mg, 1.95 mmol) and hydrazine hydrate (0.122 mL, 3.9 mmol) in ethanol (3 mL) was stirred at reflux for 2 hours. The reaction mixture was then cooled to room temperature and concentrated to give compound methyl-4-(naphthalen-1-yl)-1H-pyrazol-3-ol as an oil that solidified upon standing (400 mg, 91%). The crude product was used in next step without further purification.

reactant | ethyl 2-(naphthalen-1-yl)-3-oxobutanoate | 1.95 mmol, 500 mg | C1(=CC=CC2=CC=CC=C12)C(C(=O)OCC)C(C)=O | C16H16O3
reactant | hydrazine hydrate | 3.9 mmol, 0.122 mL | O.NN
reactant | ethanol | 3 mL | C(C)O | C2H6O
product | methyl-4-(naphthalen-1-yl)-1H-pyrazol-3-ol | CN1N=C(C(=C1)C1=CC=CC2=CC=CC=C12)O | C14H12N2O
